US04703053
A mixture of 5.7 g (0.023 mole) of 5-methoxy-3-(1-methylethoxy)-2-benzofurancarboxylic acid and 4.2 g (0.026 mole ) of 1,1-carbonylbis(1H-imidazole) in 140 ml of acetonitrile is stirred at reflux for one hour. The mixture is cooled, treated with 2.3 g (0.027 mole) of anhydrous 5-aminotetrazole plus 7.7 ml (5.6 g; 0.055 mole) of triethylamine, and heated at reflux for an additional five hours. The cooled reaction mixture is added to 1.5 kg of ice/water and acidified with glacial acetic acid to precipitate the tetrazole product. The precipitate is filtered, washed with water, and recrystallized from aqueous acetonitrile to yield 6.0 g (82% yield) of the analytically pure 5-methoxy3-tetrazol-5-yl-2-benzofurancarboxamide, mp 241°-245° C.

reactant | 5-methoxy-3-(1-methylethoxy)-2-benzofurancarboxylic acid | 0.023 mole, 5.7 g | COC=1C=CC2=C(C(=C(O2)C(=O)O)OC(C)C)C1 | C13H14O5
reactant | 5-aminotetrazole | 0.027 mole, 2.3 g | NC1=NN=NN1 | CH3N5
reactant | triethylamine | 0.055 mole, 7.7 ml, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
product | 5-methoxy3-tetrazol-5-yl-2-benzofurancarboxamide | 82% yield | COC=1C=CC2=C(C(=C(O2)C(=O)N)C2=NN=NN2)C1 | C11H9N5O3
